* C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\BuckBoost_P-Channel-v2switch.asc
V1 N003 0 17
Q1 NC_01 N001 0 0 BC547B
V2 N002 0 PULSE(0 5 0 0 0 16.4u 20u)
R3 N002 N001 100
R1 N006 0 8
R2 N009 N008 333
V3 N008 0 PULSE(0 5 0 1p 0 0u 20u)
XM1 N003 N007 N005 irl530n
C1 N005 N004 6.7µ
D1 N003 N004 1N4148
Q2 N007 N009 0 0 BC547B
R4 N004 N007 1000
L1 N005 N006 1.8µ
C2 N006 0 470µ
.model D D
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.bjt
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\9530n.spi"
.tran 0 10000u 0
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\sihl530.lib"
.backanno
.end
