* C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\BuckBoost_P-Channel-v2switch_+analogkontrol.asc
V1 N001 0 15
R1 N004 0 8
R2 N007 N006 100
XM1 N001 N005 N003 irl530n
C1 N003 N002 6.7µ
D1 N001 N002 1N4148
Q2 N005 N007 0 0 BC547B
R4 N002 N005 1000
L1 N003 N004 1.8µ
C2 N004 0 470µ
XU1 N019 N011 N008 0 N006 MAX4354
V4 N020 0 PULSE(0 5 0 0 0 10u 20u)
R5 N020 N019 100
C3 N019 0 40n
V5 N008 0 5
XU2 N021 N013 N008 0 N012 MAX4354
R6 N009 N013 10k
R7 N013 N012 100k
XU3 N016 N014 N008 0 N014 MAX4354
R3 N004 N016 10k
R10 N016 0 5k
XU4 N026 N022 N008 0 N022 MAX4354
R11 N023 N026 10k
R12 N026 0 5k
R8 N023 N021 10k
D2 0 N003 1N5817
XU7 N027 N025 N008 0 N024 MAX4354
R16 N009 N025 100k
R17 N027 N023 100k
C5 N025 N024 1m
R18 N025 N024 1000k
XU5 N018 N010 N008 0 N009 MAX4354
R9 N014 N010 10k
R13 N010 N009 10k
R14 0 N018 10k
R15 N022 N018 10k
XU6 N017 N015 NC_01 0 N011 MAX4354
R19 N012 N015 1k
R20 N024 N015 1k
R21 N015 N011 1k
R22 N017 N023 1k
V2 N023 0 2.5
.model D D
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.bjt
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\9530n.spi"
.tran 0 10000u 0
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\sihl530.lib"
.lib MAX4354.lib
.backanno
.end
