* C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\BuckBoost_P-Channel-v2switch_+analogkontrolv3.asc
V1 N001 0 15
R1 N004 0 8
R2 N007 N006 100
XM1 N001 N005 N003 irl530n
C1 N003 N002 6.7µ
D1 N001 N002 1N4148
Q2 N005 N007 0 0 BC547B
R4 N002 N005 1000
L1 N003 N004 1.9m
C2 N004 0 470µ
XU1 N014 N011 N008 0 N006 MAX4354
V4 N015 0 PULSE(0 5 0 0 0 10u 20u)
R5 N015 N014 100
C3 N014 0 40n
V5 N008 0 5
D2 0 N003 1N5817
XU2 N017 COM N008 0 COM MAX4354
R6 N017 0 30k
R7 N008 N017 10k
XU3 N016 N012 N008 0 N011 MAX4354
R9 N012 N011 10k
R10 N012 N013 10k
R14 COM N010 10k
XU4 NC_01 N010 NC_02 0 N009 MAX4354
C6 N010 N009 250n
R3 N016 COM 10k
R8 0 N016 10k
D3 N010 N009 D
R11 N004 N013 100k
R12 N013 0 300k
.model D D
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\LTspiceXVII\lib\cmp\standard.bjt
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\9530n.spi"
.tran 0 10000u 0
.inc "C:\Users\simo2\OneDrive - Danmarks Tekniske Universitet\Dokumenter\GitHub\ee-projekt\Calculations\BuckBoost_converter_sim\sihl530.lib"
.lib MAX4354.lib
.backanno
.end
